US06235739B1
Using the same procedure as in Example 1(3), 4,4-diethoxy-2-ethoxycarbonyl-3-[3-(2-ethylbutoxy)-4-methoxyphenyl]butyric acid ethyl ester, instead of 3-(3,4-dimethoxyphenyl)-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester, was used to obtain a yellow solid of the above-described compound via 4,4-diethoxy-3-[3-(2-ethylbutoxy)-4-methoxyphenyl] butyric acid (yield 36.9%).

reactant | 4,4-diethoxy-2-ethoxycarbonyl-3-[3-(2-ethylbutoxy)-4-methoxyphenyl]butyric acid ethyl ester | C(C)OC(C(C(C(OCC)OCC)C1=CC(=C(C=C1)OC)OCC(CC)CC)C(=O)OCC)=O | C26H42O8
reactant | 3-(3,4-dimethoxyphenyl)-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester | C(C)OC(C(C(C(OCC)OCC)C1=CC(=C(C=C1)OC)OC)C(=O)OCC)=O | C21H32O8
product | 4,4-diethoxy-3-[3-(2-ethylbutoxy)-4-methoxyphenyl] butyric acid | yield 36.9% | C(C)OC(C(CC(=O)O)C1=CC(=C(C=C1)OC)OCC(CC)CC)OCC | C21H34O6
